US04788199
Sodium hydride (5.4 g, 80% strength in oil) is placed under nitrogen with anhydrous tetrahydrofuran (250 cc) and then, with the mixture cooled to about 5° C., diethyl malonate (25.6 g) is added. When the evolution of hydrogen has ceased, a solution of 4-bromomethyl-2-phenylquinazoline (23.9 g) in anhydrous tetrahydrofuran (100 cc) is added. After 1 hour's stirring at room temperature (approximately 20° C.), acetic acid (25 cc) is added, the solvent evaporated under reduced pressure and the residue taken up in concentrated hydrochloric acid (150 cc) and acetic acid (150 cc). The mixture is brought to 120° C. for 15 hours and evaporated again, water (200 cc) and ethyl ether (150 cc) are added and the mixture is alkalinised to pH 11 with sodium hydroxide solution. The organic phase is decanted and the aqueous solution washed with ethyl ether (2×100 cc). The aqueous phase is adjusted to pH 4 and extracted with ethyl acetate (2×100 cc). The organic phase is dried over magnesium sulphate and evaporated to dryness under reduced pressure. The residue is crystallized in ethyl acetate. 2-Phenyl-4-quinazolinepropanoic acid (9 g), m.p. 159° C., is obtained.

reactant | Sodium hydride | 5.4 g | [H-].[Na+]
reactant | diethyl malonate | 25.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrogen | [H][H] | H2
reactant | 4-bromomethyl-2-phenylquinazoline | 23.9 g | BrCC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C15H11BrN2
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 cc | O1CCCC1 | C4H8O
solvent | acetic acid | 25 cc | C(C)(=O)O | C2H4O2
product | 2-Phenyl-4-quinazolinepropanoic acid | 9 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)CCC(=O)O | C17H14N2O2
